US07977340B2
A stirred suspension of 5-Bromo-3-nitro-2-(2,2,2-trifluoro-acetylamino)-benzoic acid methyl ester (8 g, 21.56 mmol) in methanol (150 ml) was treated with hydrochloric acid (6M, 75 ml) and heated at 80° C. for 16 h. After cooling to ambient temperature, the yellow solid was collected by filtration and washed with cold water and dried in vacuo to give 2-Amino-5-bromo-3-nitro-benzoic acid methyl ester (5.0 g, 84%).

reactant | 5-Bromo-3-nitro-2-(2,2,2-trifluoro-acetylamino)-benzoic acid methyl ester | 21.56 mmol, 8 g | COC(C1=C(C(=CC(=C1)Br)[N+](=O)[O-])NC(C(F)(F)F)=O)=O | C10H6BrF3N2O5
reactant | hydrochloric acid | 6M, 75 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 2-Amino-5-bromo-3-nitro-benzoic acid methyl ester | 5.0 g, 84% | COC(C1=C(C(=CC(=C1)Br)[N+](=O)[O-])N)=O | C8H7BrN2O4
